Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Tachycardia, SOB, chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ y.o. woman with a history of migraines on 
nortriptyline who presents with shortness of breath, 
tachycardia, and intermittent chest pain. She states that she 
had a sore throat for the past 2 weeks, then 2 days ago 
developed a fever to ___, for which she took Tylenol. She 
developed tachycardia yesterday with HR in the 130s-140s, and 
became SOB last night at 7pm. She went to urgent care where she 
received IV fluids and had a CXR which was normal. She states 
that her SOB is characterized by taking shallow breaths, with 
some pain on deep inspiration. This is distinct from her chest 
pain, which is characterized by a ___ "stabbing"/sharp pain in 
the ___ her chest that radiates beneath her breast to her 
left flank. She has not taken anything to alleviate the pain. 
Along with these symptoms, she endorses some nausea but no 
vomiting, as well as loss of appetite.

Notably, she has had multiple infections throughout this past 
school year. She began as a freshman at ___ last fall, and 
therefore has been around a greater number of sick contacts and 
has been stressed about doing well in school. She has had 
sinusitis and bronchitis multiple times, and has taken 
amoxicillin and prednisone. She also notes a history of frequent 
sinus infections during childhood and adolescence.

In the ED, initial vitals: 97.6 139 142/89 18 100% RA

Exam notable for tachypnea and tachycardia, no hyperreflexia.

Labs were significant for:
- BMP wnl except HCO3 18
- H/H 10.2/32.7, MCV 80
- CRP 49.6
- Trop-T <0.01, proBNP 5
- hCG negative
- TSH 1.7
- Serum ASA, EtOH, Acetmnphn, Benzo, Barb, Tricyc negative
- Urine Benzos, Barbs, Opiates, Cocaine, Amphet, Mthdne, 
Oxycodone negative
- UA with 10 ketones

Imaging showed:
- CXR negative
- CTA negative
- Bedside U/S showed no RV dilation, no obvious DVT

Patient was given 1L NS. 

Patient was seen by cardiology, who thought that pericarditis is 
possible though normal EKG and symptoms are not highly 
suggestive. The decision made to admit given her elevated CRP in 
the setting of pleuritic chest pain.

Vitals prior to transfer: 98.3 116 133/79 21 100% RA

On arrival to the floor, she was lying in bed in NAD, working on 
her laptop with her mother sitting next to her in a chair.

ROS:  
No fevers, chills, night sweats, or weight changes. No changes 
in vision or hearing, no changes in balance. No cough, 
+shortness of breath. +chest pain, +subjective tachycardia. 
+nausea, no vomiting. No diarrhea or constipation. No dysuria or 
hematuria. No hematochezia, no melena. No numbness or weakness, 
no focal deficits.
 

 
Past Medical History:
- Migraines
- Nausea
- Acne
- Prior hospitalization (___) for abdominal pain, thought to be 
functional
 
Social History:
___
Family History:
No history of cancer, diabetes, or autoimmune disease.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
===========================
VS: 98.2 117 131/87 19 99% RA
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: CTAB without wheeze or rhonchi, shallow breaths  
COR: Tachycardic, (+)S1/S2, no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal

DISCHARGE PHYSICAL EXAM:
============================
Vitals: 98.3 106 114/67 18 98% RA
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD
PULM: CTAB without wheeze or rhonchi, shallow breaths  
COR: Tachycardic, (+)S1/S2, no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal
 
Pertinent Results:
ADMISSION LABS:
===========================

___ 10:07PM BLOOD WBC-9.8 RBC-4.07 Hgb-10.2* Hct-32.7* 
MCV-80* MCH-25.1* MCHC-31.2* RDW-14.5 RDWSD-42.0 Plt ___
___ 10:07PM BLOOD Neuts-69.3 ___ Monos-4.2* 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-6.79* AbsLymp-2.52 
AbsMono-0.41 AbsEos-0.01* AbsBaso-0.04
___ 10:07PM BLOOD Glucose-96 UreaN-7 Creat-0.9 Na-137 K-4.2 
Cl-105 HCO3-18* AnGap-18
___ 10:07PM BLOOD proBNP-5
___ 10:07PM BLOOD cTropnT-<0.01
___ 11:15PM URINE Color-Straw Appear-Hazy Sp ___
___ 11:15PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-NEG
___ 11:15PM URINE UCG-NEGATIVE
___ 11:15PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

PERTINENT LABS:
===========================

___ 10:07PM BLOOD cTropnT-<0.01
___ 10:07PM BLOOD proBNP-5
___ 06:25AM BLOOD Calcium-9.2 Phos-3.8 Mg-2.0 Iron-32
___ 06:25AM BLOOD calTIBC-464 Ferritn-8.9* TRF-357
___ 10:07PM BLOOD TSH-1.7
___ 10:07PM BLOOD HCG-<5
___ 10:07PM BLOOD CRP-49.6*
___ 10:07PM BLOOD CRP-49.6*
___ 10:07PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

DISHARGE LABS:
===========================

___ 06:25AM BLOOD WBC-7.8 RBC-4.11 Hgb-10.4* Hct-32.8* 
MCV-80* MCH-25.3* MCHC-31.7* RDW-14.6 RDWSD-42.3 Plt ___
___ 06:25AM BLOOD Glucose-79 UreaN-8 Creat-0.7 Na-141 K-4.2 
Cl-106 HCO3-24 AnGap-15

MICROBIOLOGY:
============================
___ 11:15 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 6:25 am SEROLOGY/BLOOD

                            **FINAL REPORT ___

   MONOSPOT (Final ___: 
      NEGATIVE by Latex Agglutination. 
           (Reference Range-Negative). 

IMAGING:
=================================
#CTA chest ___:
FINDINGS:    The aorta and its major branch vessels are patent, 
with no evidence of stenosis, occlusion, dissection, or 
aneurysmal formation.  There is no evidence of penetrating 
atherosclerotic ulcer or aortic arch atheroma present.   While 
the exam is somewhat limited due to the phase of contrast, the 
pulmonary arteries are well opacified to the subsegmental level, 
with no evidence of filling defect within the main, right, left, 
lobar, segmental or subsegmental pulmonary arteries.  The main 
and right pulmonary arteries are top normal in caliber, and 
there is no evidence of right heart strain.   There is no 
axillary, mediastinal, or hilar lymphadenopathy.   There is no 
evidence of pericardial effusion.  There is no pleural effusion. 
  There is no evidence of pulmonary parenchymal abnormality. The 
airways are patent to the subsegmental level.   Limited images 
of the upper abdomen are unremarkable.   No lytic or blastic 
osseous lesion suspicious for malignancy is identified.   
Bilateral breast parenchyma are suboptimally evaluated on this 
modality.  
 IMPRESSION:    No evidence of acute pulmonary embolism. 

#CXR ___:
The lungs are well expanded and clear.  There is no pleural 
abnormality.  The 
heart size is within normal limits.  The hilar and mediastinal 
contours are 
unremarkable. 
  
IMPRESSION:  
  
No acute cardiopulmonary abnormality. 

#TRANSTHORACIC ECHOCARDIOGRAM ___:
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF = 65%). Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are mildly thickened. 
There is mild bileaflet mitral valve prolapse. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 

 IMPRESSION: mild mitral valve prolapse; otherwise normal study 

 
Brief Hospital Course:
___ y.o. woman with a history of migraines on nortriptyline who 
presents with shortness of breath, tachycardia, and intermittent 
chest pain in the setting of recent viral symptoms with elevated 
CRP and EKG showing sinus tachycardia, most concerning for 
pericarditis.

ACTIVE ISSUES: 
===============
# Tachycardia, chest pain, SOB: Her presentation is most 
concerning for pericarditis vs. costochondritis. Her chest pain 
and SOB appear to be distinct entities, with only minimal pain 
on deep inspiration. Her history and elevated CRP suggests an 
inflammatory process such as pericarditis, but there were no ST 
elevations or PR depressions that would support this as the 
etiology. Costochondritis is possible, though no precipitating 
events were elicited. PE was ruled out in the ED with negative 
CTA. No PNA on CXR or CT chest. Mononucleosis also possible, 
with splenic enlargement causing pain, but this was not noted on 
exam. TTE showed no pericardial effusion. Started on empiric 
therapy with indomethacin. Plan for Indomethacin 50mg PO TID for 
1 week, then taper every ___ days for total treatment time of 
___ weeks

#Anemia: Found to have Hgb 10, MCV 80, with iron level of 32 and 
ferritin of 8.6. Suspect blood loss due to menstrual bleeding, 
however she stated that she typically has regular, light periods 
for ___ days every ___ days. She will need to have further 
evaluation as an outpatient by her PCP and OB/GYN into the 
underlying cause of her iron deficiency. 
Started her on iron supplementation with ferrous sulfate BID. 

CHRONIC ISSUES:
=============== 
# Nausea: Compazine 5mg daily prn

# Acne: Spironolactone 50mg qAM, 75mg qPM

TRANSITIONAL ISSUES:
=============================
# Indomethacin 50mg PO TID for 1 week, then taper every ___ days 
for total treatment time of ___ weeks
#Patient without PCP in ___ plans to follow-up with prior 
PCP when she is home from college in ___ in 2 weeks. 
Encouraged her to follow-up with new PCP in ___, potentially 
in ___ system
# Anemia, iron deficiency: started patient on iron 
supplementation, and instructed her to follow-up with PCP and 
OB/GYN for further diagnostic work-up and monitoring of response 
to therapy
#Full code
#Contact: ___, mother, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nortriptyline 30 mg PO QHS 
2. Prochlorperazine 5 mg PO DAILY:PRN Nausea 
3. Spironolactone 50 mg PO QAM 
4. Spironolactone 75 mg PO QPM 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID:PRN constipation 
to use as needed for constipation that may result from iron 
pills 
RX *docusate sodium 100 mg 1 capsule(s) by mouth BID:PRN Disp 
#*60 Capsule Refills:*0 
2.  Ferrous Sulfate 325 mg PO BID 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*3 
3.  Indomethacin 50 mg PO TID 
taper 3 times per day for one week, then taper every ___ days 
RX *indomethacin 50 mg 1 capsule(s) by mouth three times a day 
Disp #*35 Capsule Refills:*0 
4.  Nortriptyline 30 mg PO QHS  
5.  Prochlorperazine 5 mg PO DAILY:PRN Nausea  
6.  Spironolactone 50 mg PO QAM  
7.  Spironolactone 75 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Pericarditis
Iron deficiency anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, 

It was a pleasure meeting you and taking care of you during your 
hospitalization at ___.  

Unfortunately you were admitted to the hospital with chest pain 
and difficulty breathing.  Your heart rate was very fast.  Blood 
tests showed evidence of inflammation, which may be due to a 
recent viral infection, but since you have chest pain, we were 
concerned that you may have pericarditis, which is an 
inflammation of the lining around the heart.  

Blood tests, EKG, and a CT scan of the chest showed that you did 
not have a more serious diagnosis such as a heart attack, 
pneumonia, or blood clot in the lungs. A ultrasound of the heart 
showed that you have a condition called mitral valve prolapse, 
which is mild. 

You were started on a strong anti-inflammatory medication called 
indomethacin, which you can take for 2 weeks. 

We also found that you have anemia, due to iron deficiency. You 
will need to follow-up with your primary care doctor and with 
your OB/GYN physician to discuss further testing to investigate 
the cause of your iron deficiency anemia. We discharged you with 
a prescription to take iron supplementation.  This can cause 
constipation, so you may need to take a stool softener, called 
docusate, as needed to prevent constipation. 

We wish you the best of health!

Regards, 

Your ___ Team
 
Followup Instructions:
___